US05919807
b) 2-(2-chlorophenylmercapto)-6-(2-diethylamino-ethoxy)-benzothiazole
2-(4-(Chlorophenoxy)-6-(2-diethylamino-ethoxy)-benzothiazole, from 2-chloro-6-(2-diethylamino-ethoxy)-benzothiazole and 4-chlorophenol in the presence of potassium tert. butoxide, Yield: 63.7% of theory, Melting point: 60-62° C., 1H-NMR spectrum (200 MHz, DMSO-d6, signals at ppm): 0.98 (t, 6H); 2.55 (q, 4H); 2.78 (t, 2H); 4.04 (t, 2H); 7.02 (dd, 1H); 7.41-7.64 (m, 6H).

reactant | 4-(Chlorophenoxy)-6-(2-diethylamino-ethoxy)-benzothiazole | ClC1=C(OC2=CC(=CC3=C2N=CS3)OCCN(CC)CC)C=CC=C1 | C19H21ClN2O2S
reactant | 2-chloro-6-(2-diethylamino-ethoxy)-benzothiazole | ClC=1SC2=C(N1)C=CC(=C2)OCCN(CC)CC | C13H17ClN2OS
reactant | 4-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium tert. butoxide | CC(C)([O-])C.[K+]
product | 2-(2-chlorophenylmercapto)-6-(2-diethylamino-ethoxy)-benzothiazole | ClC1=C(C=CC=C1)SC=1SC2=C(N1)C=CC(=C2)OCCN(CC)CC | C19H21ClN2OS2
